US08258130B2
3-{2,4-Dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl}-propionic acid methyl ester (0.22 mol) is hydrolyzed by LiOH (0.88 mol) in MeOH/water/THF (1:1:1) at rt overnight. MeOH and THF are evaporated in vacuo. The residue is acidified by 5% aqueous HCl. The resulting precipitate is collected and dried to afford 3-{2,4-dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl}-propionic acid (40 mg, 48%). MS: 383 (M+H); 1H NMR (300 MHz, CD3OD): δ 2.68-2.77 (m, 2H), 2.98-2.90 (m, 2H), 5.49 (s. N—H), 7.48-7.60 (m, 3H), 8.41-8.56 (m, 2H), 9.32 (s, 2H).

reactant | 3-{2,4-Dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl}-propionic acid methyl ester | 0.22 mol | COC(CCC=1C(N(C(NC1)=O)NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)=O)=O | C19H17N5O5
reactant | LiOH | 0.88 mol | [Li+].[OH-]
solvent | MeOH water THF | CO.O.C1CCOC1
product | 3-{2,4-dioxo-3-[(2-pheyl-pyrimidine-5-carbonyl)-amino]-1,2,3,4-tetrahydro-pyrimidin-5-yl}-propionic acid | 40 mg, 48% | O=C1NC=C(C(N1NC(=O)C=1C=NC(=NC1)C1=CC=CC=C1)=O)CCC(=O)O | C18H15N5O5
